US07495007B2
Preparation of intermediate 5-chloro-pyridine-3-carbaldehyde
The mixture of 3-chloro-5-formyl-2H-pyridine-1-carboxylic acid phenyl ester (2.3 g, 8.8 mmol), sublimed sulfur (0.29 g, 9 mmol) and naphthalene (6 g) was refluxed under an argon atmosphere for 2 h. After the reaction was complete, the mixture was cooled to r.t., dissolved in ethyl ether (30 mL), and extracted with aqueous 10% HCl. The combined acid extracts were washed with ethyl ether (20 mL) and cooled to 0° C. Dichloromethane (30 mL) was added and “pH” of the mixture was adjusted to be basic with 25% aqueous NaOH, and the mixture was extracted with dichloromethane (20 mL). The combined organic phase was washed with brine, dried over K2CO3, filtered, and concentrated to give a brown solid. (0.8 g, 76%).

reactant | 3-chloro-5-formyl-2H-pyridine-1-carboxylic acid phenyl ester | 8.8 mmol, 2.3 g | C1(=CC=CC=C1)OC(=O)N1CC(=CC(=C1)C=O)Cl | C13H10ClNO3
reactant | sulfur | 9 mmol, 0.29 g | [S] | S
reactant | naphthalene | 6 g | C1=CC=CC2=CC=CC=C12 | C10H8
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
product | 5-chloro-pyridine-3-carbaldehyde | ClC=1C=C(C=NC1)C=O | C6H4ClNO
